US07321045B2
Part E. Preparation of 2-(6-((Tert-butoxy)carbonylamino)hexanoylamino)-3-((1-(3-(imidazol-2-ylamino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid
2-Amino-3-((1-(3-(imidazol-2-ylamino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid (0.050 g, 0.103 mmol) was dissolved in N,N-dimethylformamide (2 mL). Triethylamine (43.1 μL, 0.309 mmol) was added and the reaction was stirred for 5 minutes. A precipitate formed so methyl sulfoxide (1 mL) was added. Succinimidyl N-boc-6-aminohexanoate (0.0406 g, 0.124 mmol) was added and the reaction was stirred under N2 for 18 h. The reaction was then concentrated to an oil under high vacuum. The oil was purified by the following method (Preparative HPLC Method A) to give 39.9 mgs (66%) of product. ESMS: Calcd. for C28H40N8O6, 584.31. Found, 585.2 [M+H]+1. Analytical HPLC, Method B, Rt=18.72 min, Purity=98% Preparative HPLC Method A:

reactant | 2-Amino-3-((1-(3-(imidazol-2-ylamino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid | 0.103 mmol, 0.050 g | NC(C(=O)O)CNC(=O)C=1C=C2C=NN(C2=CC1)CCCNC=1NC=CN1 | C17H21N7O3
reactant | Triethylamine | 0.309 mmol, 43.1 μL | C(C)N(CC)CC | C6H15N
reactant | methyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
reactant | Succinimidyl N-boc-6-aminohexanoate | 0.124 mmol, 0.0406 g | C(=O)(OC(C)(C)C)NCCCCCC(=O)ON1C(CCC1=O)=O | C15H24N2O6
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(6-((Tert-butoxy)carbonylamino)hexanoylamino)-3-((1-(3-(imidazol-2-ylamino)propyl)(1H-indazol-5-yl))carbonylamino)propanoic acid | 39.9 mgs, 66% | C(C)(C)(C)OC(=O)NCCCCCC(=O)NC(C(=O)O)CNC(=O)C=1C=C2C=NN(C2=CC1)CCCNC=1NC=CN1 | C28H40N8O6
